US04847254
5-Methoxy-2,3-dihydro-3-benzofuranmethylamine
To 81 g of 5-methoxy-2,3-dihydro-3-benzofuranacetic acid in 250 ml of dichloromethane were added 0.5 ml of DMF and 48 ml of thionyl chloride. The mixture was stirred for 10 minutes and then heated at reflux for 1 hour. Dichloromethane and thionyl chloride were evaporated, and remaining traces of thionyl chloride were removed by evaporation with n-heptane. The resulting acid chloride was dissolved in 240 ml of acetone and added dropwise to a stirred solution of 25.5 g of NaN3 in 120 ml of water at 10°-15° C. Cold toluene (1500 ml) was added, and the organic phase was separated, washed with brine, dried (MgSO4) and finally placed in a 5 l beaker and heated slowly to 80° C. When the N2 evolution had ceased 600 ml of conc. hydrochloric acid and 900 ml of water were added. The resulting mixture was stirred overnight at room temperature. The water phase was separated and made alkaline (pH 10-11) by addition of ammonium hydroxide and finally extracted with dichloromethane. The organic phase was evaporated and the remaining oil was dissolved in 1000 ml of dil. hydrochloric acid. This solution was left for 16 hours and then added to 600 ml of ammonium hydroxide at 0° C. Dichloromethane was added, the organic phase was separated, dried (Na2SO4) and evaporated yielding 61 g of product as an oil.

reactant | 5-methoxy-2,3-dihydro-3-benzofuranacetic acid | 81 g | COC1=CC2=C(OC(C2)CC(=O)O)C=C1 | C11H12O4
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 48 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 5-Methoxy-2,3-dihydro-3-benzofuranmethylamine | 61 g | COC1=CC2=C(OC(C2)CN)C=C1 | C10H13NO2
